US05597922
Preparation of 6-Nitrobenzoyleneurea
6-Nitrobenzoyleneurea was prepared using an adaptation of the method of Cheeseman, G. W. H., J. Chem. Soc. 1171 (1962). To a solution of benzoyleneurea (0.201 g, 1.24 mmol) in 3.0 mL concentrated H2SO4 at 0° C. was added KNO3 (0.139 g, 1.37 mmol) in one portion. The reaction mixture was allowed to warm to room temperature then stirred overnight. The resulting yellow solution was poured onto 10 mL of ice giving a pale yellow precipitate. The precipitate was isolated on a Hirsch funnel and washed with 35 mL of deionized water. The solid was suspended in 25 mL deionized water, refiltered via Hirsch funnel and allowed to dry on the filter under vacuum for 30 minutes affording 0.155 g (60%) title compound as a pale yellow powder. An analytical sample was obtained by recrystallization from 50% glacial acetic acid as a pale brown microcrystalline solid: mp 327°-328° C. (lit., Varma and Singh; Ind. J. Chem. 296:578-81 (1990): 315°-316° C. dec.). FT-IR (cm-1) 3020, 2850, 1713, 1684, 1631, 1602, 1538, 1491, 1444, 1385, 1332, 1303, 1239, 1157. 1H NMR (DMSO-d6 at δ2.49): δ7.30 (d, J8,7 =9 Hz, 1 H, H8); 8.44 (dd, J7,8 =9 Hz, J7,5 =2.4 Hz, 1H, H7); 8.57 (d, J5,7 =2.7 Hz, 1H, H5); 11.71 (s, 1H, NH); 11.76 (s, 1H, NH). EIMS m/z 207 (M+, bp), 164 (43%), 134 (18%), 106 (22%), 90 (29%), 63 (27%). EIHRMS calc. for C8H5N3O4 207.02799, found 207.02910.

reactant | benzoyleneurea | 1.24 mmol, 0.201 g | C1=CC=C2C(=C1)C(=O)NC(=O)N2 | C8H6N2O2
reactant | KNO3 | 1.37 mmol, 0.139 g | [N+](=O)([O-])[O-].[K+]
solvent | H2SO4 | 3.0 mL | OS(=O)(=O)O | H2O4S
product | 6-Nitrobenzoyleneurea | 0.155 g, 60% | C1=CC2=C(C=C1[N+](=O)[O-])C(=O)NC(=O)N2 | C8H5N3O4
